US07790749B2
A solution of 2.2 g of N—BOC-3-(R)-hydroxy-piperidine in 10 ml of THF is added under argon and 1 ml of thiolacetic acid to a solution of 3.4 g of triphenylphosphine and 2.65 ml of azadicarbonic acid-isopropylate in 10 ml of THF. The mixture obtained is kept for 18 hours at 70°, solvent is evaporated and the evaporation residue obtained is subjected to chromatography. N—BOC-3-(S)-thioacetoxy-piperidine is obtained. 1H-NMR (CDCl3): 3.78 (dd,1H,NCH2CHS, J=3.1 Hz, J=13.3 Hz), 3.5-3.6 (m,2H, CHSC═O, NCH2CH2), 2.32(s,3H,SC═OCH3),1.46(s,9H, tert.butyl)

reactant | N—BOC-3-(R)-hydroxy-piperidine | 2.2 g | C(=O)(OC(C)(C)C)N1C[C@@H](CCC1)O | C10H19NO3
reactant | thiolacetic acid | 1 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | triphenylphosphine | 3.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N—BOC-3-(S)-thioacetoxy-piperidine | C(=O)(OC(C)(C)C)N1C[C@H](CCC1)OC(C)=S | C12H21NO3S
